US05716944
1-Bromomethyl-4-nitronaphthalene and triethylphosphite ((C2H5 O)3P) were treated in the same manner as in Reference Example 43 to yield diethyl (4-amino-1-naphthyl)methylphosphonate, which was then recrystallized from ethyl acetate-hexane to yield yellow prisms having a melting point of 73°-74° C.

reactant | 1-Bromomethyl-4-nitronaphthalene | BrCC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C11H8BrNO2
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl (4-amino-1-naphthyl)methylphosphonate | NC1=CC=C(C2=CC=CC=C12)CP(OCC)(OCC)=O | C15H20NO3P
